US09107916B2
B. 2-[5-(3-Methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in quantitative yield from 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (PREPARATION 3) and (2E)-3-(dimethylamino)-1-(3-methylphenyl)prop-2-en-1-one according to the procedure for the preparation of Example 12, part B. 1H NMR (400 MHz, CDCl3): δ 2.35 (3H, s), 6.51 (1H, d, J=1.6 Hz), 7.00 (1H, d, J=3.2 Hz), 7.22 (3H, m), 7.38 (1H, dd, J=5.2, 1.2 Hz), 7.77 (1H, d, J=1.6 Hz), 7.92 (1H, s), 8.42 (1H, d, J=4.8 Hz).

reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | Cl.N(N)C1=NC=CC(=C1)C#N
reactant | (2E)-3-(dimethylamino)-1-(3-methylphenyl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CC(=CC=C1)C)C | C12H15NO
product | 2-[5-(3-Methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | quantitative yield | CC=1C=C(C=CC1)C1=CC=NN1C1=NC=CC(=C1)C#N | C16H12N4
